US07855297B2
By the reaction and treatment in the same manner as in Example 83 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.96 g) and nonyl bromide (0.57 mL) as starting materials, 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(1-nonylpyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.20 g) was obtained. By the reaction and treatment of this compound in the same manner as in Example 139, 5-hydroxy-N-(6-isopropylpyridin-3-yl)-N-[(1-nonylpyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.81 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.96 g | Cl.C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C
reactant | nonyl bromide | 0.57 mL | C(CCCCCCCC)Br | C9H19Br
product | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(1-nonylpyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.20 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CCCCCCCCC)C=1C=NC(=CC1)C(C)C | C39H50N4O2
